US05550125
7.2. Ethyl (±)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate.
220 ml of ethanol are introduced into a 1 l three-necked flask, with magnetic stirring, cooled to 0° C., and 3 g (0.133 mol) of sodium are added slowly, in small portions, followed by successive dropwise addition of 22.29 g (0.088 mol) of N-(2-hydroxy-5-nitrophenyl)trifluoroacetamide and 22.65 g (0.088 mol) of 75% pure ethyl 4-bromo-2-butenoate, and the mixture is heated at reflux for 3 h.

reactant | sodium | 0.133 mol, 3 g | [Na] | Na
reactant | N-(2-hydroxy-5-nitrophenyl)trifluoroacetamide | 0.088 mol, 22.29 g | OC1=C(C=C(C=C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C8H5F3N2O4
reactant | ethyl 4-bromo-2-butenoate | 0.088 mol, 22.65 g | BrCC=CC(=O)OCC | C6H9BrO2
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | Ethyl (±)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate | [N+](=O)([O-])C=1C=CC2=C(NC(CO2)CC(=O)OCC)C1 | C12H14N2O5
